* Library of Polyfet RF Devices rf MOSFETs

* $Revision:   1.9  $
* $Author:   RPEREZ  $
* $Date:   02 Oct 1996 15:52:06  $

*---------------------------------------------------------------
*$
*POLYFET RF DEVICES 
*FEB 15TH 1994
*PHONE:(805)484-4210; FAX:(805)494-3393  CONTACT:MR. S.K. LEONG
*HIGH POWER, HIGH FREQUENCY, RF N-CHANNEL VERTICAL DMOS MOSFET
*TO GENERATE S PARAMETER MATCHING DATA SHEET, SET VG=3.63V FOR IDQ=200MA
*MODEL APPLICABLE FOR ALL F1B 1 DIE IN AP, AK, AQ AND CC PACKAGE.
*  NOTE:- HP/EESOF USES 'GATE DRAIN SOURCE' ORDER
*			( ;D  G  S )
.SUBCKT F1007/PF  20  10  30
LG     10  11  1.71n
RGATE  11  12  0.78
CG     10  30  0.05P
CRSS   12  17  4.09P
CISS   12  14  29.03P
LS     14  30  0.30N 
CS     14  30  0.10P
LD     17  20  0.85N
CD     20  30  1.44P
R_RC   16  17  35.73
C_RC   14  16  11.8P
MOS    13  12  14  14 F1007MOS L=1.1U W=0.06       ;D G S B LEVEL1
JFET   17  14  13     F1007JF                      ;D G S
DBODY  14  17         F1007DB                      ;P N
 
.MODEL F1007MOS NMOS (VTO=3 KP=1.7E-5 LAMBDA=0.1 RD=0.28 RS=0.6)
.MODEL F1007JF  NJF  (VTO=-6.8 BETA=0.2 LAMBDA=5)
.MODEL F1007DB  D    (CJO=48P RS=0.25 VJ=0.7 M=0.35 BV=65)
.ENDS
*$
*POLYFET RF DEVICES 
*FEB 15TH 1994
*PHONE:(805)484-4210; FAX:(805)484-3393  CONTACT:MR. S.K. LEONG
*HIGH POWER, HIGH FREQUENCY, RF N-CHANNEL VERTICAL DMOS MOSFET
*TO GENERATE S PARAMETER MATCHING DATA SHEET, SET VG=3.63V FOR IDQ=400MA
*MODEL APPLICABLE FOR ALL F1B 2 DIE IN AP AND AK PACKAGE.
*  NOTE:- HP/EESOF USES 'GATE DRAIN SOURCE' ORDER
*			( ;D  G  S )
.SUBCKT F1008/PF  20  10  30
LG     10  11  1.26N
RGATE  11  12  0.65
CG     10  30  0.01P
CRSS   12  17  7.5P
CISS   12  14  55.7P
LS     14  30  0.15N 
CS     14  30  0.04P
LD     17  20  0.95N
CD     20  30  0.79P
R_RC   16  17  17.4
C_RC   14  16  90P
MOS    13  12  14  14 F1008MOS L=1.1U W=0.12       ;D G S B LEVEL1
JFET   17  14  13     F1008JF                      ;D G S
DBODY  14  17         F1008DB                      ;P N
 
.MODEL F1008MOS NMOS (VTO=3 KP=1.7E-5 LAMBDA=0.1 RD=0.14 RS=0.3)
.MODEL F1008JF  NJF  (VTO=-6.8 BETA=0.2 LAMBDA=5)
.MODEL F1008DB  D    (CJO=96P RS=0.25 VJ=0.7 M=0.35 BV=65)
.ENDS
*$
*POLYFET RF DEVICES
*03/22/96
*PHONE:(805)484-4210; FAX:(805)3393  CONTACT: MR. S.K. LEONG 
*HIGH POWER, HIGH FREQUENCY, RF N-CHANNEL DMOS MOSFET 
*NOTE:-HP/EESOF USES 'GATE DRAIN SOURCE' ORDER 
*                  D  G  S
.SUBCKT  F1020/PF 20 10 30
LGATE 10  11     1.06 N
RGATE 11  12     0.53
CG    10  30     0.27 P
CRSS  12  17    21.90 P
CISS  12  14   200.00 P
LS    14  30     0.28 N
CS    14  30     1.07 P
LD    17  20     0.43 N
CD    20  30     0.58 P
R_RC  16  17    12.30
C_RC  14  16    59.40 P
MOS   13  12  14  14     F1020MOS  L=1.1U W= 0.30  ;D G S B LEVEL1 
JFET  17  14  13         F1020JF     ;D G S
DBODY 14  17             F1020DB     ;P N
.MODEL   F1020MOS NMOS(VTO=2.7  KP=1.70E-5 LAMBDA=0.1 RD= 0.07 RS= 0.06) 
.MODEL   F1020JF  NJF (VTO=-6.8 BETA=0.2 LAMBDA=5)
.MODEL   F1020DB  D   (CJO=240.0P  RS=0.25 VJ=0.7 M=0.35 BV= 65.0) 
.ENDS
*$
*POLYFET RF DEVICES
*FEB 15 1994
*PHONE:(805)484-4210; FAX:(805)494-3393  CONTACT:MR. S.K. LEONG
*HIGH POWER, HIGH FREQUENCY, RF N-CHANNEL VERTICAL DMOS MOSFET
*TO GENERATE S PARAMETER MATCHING DATA SHEET, SET VG=3.58V FOR IDQ=800MA
*
*MODEL APPLICABLE FOR ALL F1B 4 DIE IN AP AND AK PACKAGE.  F1021 USE
*BELOW AS EXAMPLE.
*  NOTE:- HP/EESOF USES 'GATE DRAIN SOURCE' ORDER
*			( ;D  G  S )
.SUBCKT F1021/PF  20  10  30
LG    10  11  0.87N
RGATE 11  12  0.61
CG    10  30  0.12P
CRSS  12  17  14.2P
CISS  12  14  130P
LS    14  30  0.09N
CS    14  30  0.06P
LD    17  20  0.75N
CD    20  30  0.45P
R_RC  16  17   8.2
C_RC  14  16   61P
MOS   13  12  14  14  F1021MOS L=1.1U W=0.24       ;D G S B LEVEL1
JFET  17  14  13      F1021JF                      ;D G S
DBODY 14  17          F1021DB                      ;P N

.MODEL F1021MOS NMOS (VTO=3 KP=1.7E-5 LAMBDA=0.1 RD=0.1 RS=0.09)
.MODEL F1021JF  NJF  (VTO=-6.8 BETA=0.2 LAMBDA=5)
.MODEL F1021DB  D    (CJO=192P RS=0.25 VJ=0.7 M=0.35 BV=65)
.ENDS
*$
*POLYFET RF DEVICES
*FEB 15 1994
*PHONE:(805)484-4210; FAX:(805)484-3393  CONTACT:MR. S.K. LEONG
*HIGH POWER, HIGH FREQUENCY, RF N-CHANNEL VERTICAL DMOS MOSFET
*TO GENERATE S PARAMETER MATCHING DATA SHEET, SET VG=3.63V FOR IDQ=600MA
*MODEL APPLICABLE FOR ALL F1B 3 DIE IN AP, AK, AQ AND CC PACKAGE.  F1022 USE
*BELOW AS EXAMPLE.
*  NOTE:- HP/EESOF USES 'GATE DRAIN SOURCE' ORDER
*			( ;D  G  S )
.SUBCKT F1022/PF  20  10  30
LG    10  11  1.0N
RGATE 11  12  0.39
CG    10  30  1.0P
CRSS  12  17  10.9P
CISS  12  14   84P
LS    14  30  0.11N
CS    14  30  2.0P
LD    17  20  0.85N
CD    20  30  1.12P
R_RC  16  17  11.2
C_RC  14  16  80.0P
MOS   13  12  14  14  F1022MOS L=1.1U W=0.18       ;D G S B LEVEL1
JFET  17  14  13      F1022JF                      ;D G S
DBODY 14  17          F1022DB                      ;P N

.MODEL F1022MOS NMOS (VTO=3 KP=1.7E-5 LAMBDA=0.1 RD=0.1 RS=0.17)
.MODEL F1022JF  NJF  (VTO=-6.8 BETA=0.2 LAMBDA=5)
.MODEL F1022DB  D    (CJO=144P RS=0.25 VJ=0.7 M=0.35 BV=65)
.ENDS
*$
*POLYFET RF DEVICES
*OCT 2ND 1995
*PHONE:(805)484-4210; FAX:(805)484-3393  CONTACT:MR. S.K. LEONG
*HIGH POWER, HIGH FREQUENCY, RF N-CHANNEL VERTICAL DMOS MOSFET
*TO GENERATE S PARAMETER MATCHING DATA SHEET, SET VG=3.17V FOR IDQ=1200MA
*  NOTE:- HP/EESOF USES 'GATE DRAIN SOURCE' ORDER
*			( ;D  G  S )
.SUBCKT F1027/PF  20  10  30
LG    10  11  0.64N
RGATE 11  12  0.52
CG    10  30  1.72P
CRSS  12  17  22.2P
CISS  12  14   260P
LS    14  30  0.22N
CS    14  30  1.8P
LD    17  20  0.29N
CD    20  30  1.38P
R_RC  16  17  16.9
C_RC  14  16  91.1P
MOS   13  12  14  14  F1027MOS L=1.1U W=0.36      ;D G S B LEVEL1
JFET  17  14  13      F1027JF                      ;D G S
DBODY 14  17          F1027DB                      ;P N

.MODEL F1027MOS NMOS (VTO=2.6 KP=1.7E-5 LAMBDA=0.1 RD=0.06 RS=0.05)
.MODEL F1027JF  NJF  (VTO=-6.8 BETA=0.2 LAMBDA=5)
.MODEL F1027DB  D    (CJO=288P RS=0.25 VJ=0.7 M=0.35 BV=65)
.ENDS
*$
*POLYFET RF DEVICES 
*FEB 15 1994
*PHONE:(805)484-4210; FAX:(805)484-3393  CONTACT:MR. S.K. LEONG
*HIGH POWER, HIGH FREQUENCY, RF N-CHANNEL VERTICAL DMOS MOSFET
*TO GENERATE S PARAMETER MATCHING DATA SHEET, SET VG=3.63V FOR IDQ=600MA
*  NOTE:- HP/EESOF USES 'GATE DRAIN SOURCE' ORDER
*			( ;D  G  S )
.SUBCKT F1072/PF  20  10  30
LG    10  11  1.0N
RGATE 11  12  0.39
CG    10  30  1.0P
CRSS  12  17  10.9P
CISS  12  14   84P
LS    14  30  0.11N
CS    14  30  2.0P
LD    17  20  0.85N
CD    20  30  1.12P
R_RC  16  17  11.2   
C_RC  14  16  80.0P
MOS   13  12  14  14  F1072MOS L=1.1U W=0.18       ;D G S B LEVEL1
JFET  17  14  13      F1072JF                      ;D G S
DBODY 14  17          F1072DB                      ;P N
 
.MODEL F1072MOS NMOS (VTO=3 KP=1.7E-5 LAMBDA=0.1 RD=0.1 RS=0.17)
.MODEL F1072JF  NJF  (VTO=-6.8 BETA=0.2 LAMBDA=5)
.MODEL F1072DB  D    (CJO=144P RS=0.25 VJ=0.7 M=0.35 BV=65)
.ENDS
*$
*POLYFET RF DEVICES 
*FEB 15 1994
*PHONE:(805)484-4210; FAX:(805)494-3393  CONTACT:MR. S.K. LEONG
*HIGH POWER, HIGH FREQUENCY, RF N-CHANNEL VERTICAL DMOS MOSFET
*TO GENERATE S PARAMETER MATCHING DATA SHEET, SET VG=3.58V FOR IDQ=800MA
*  NOTE:- HP/EESOF USES 'GATE DRAIN SOURCE' ORDER
*			( ;D  G  S )
.SUBCKT F1074/PF  20  10  30
LG    10  11  0.87N
RGATE 11  12  0.61
CG    10  30  0.12P
CRSS  12  17  14.2P
CISS  12  14  130P
LS    14  30  0.09N
CS    14  30  0.06P
LD    17  20  0.75N
CD    20  30  0.45P
R_RC  16  17   8.2   
C_RC  14  16   61P
MOS   13  12  14  14  F1074MOS L=1.1U W=0.24       ;D G S B LEVEL1
JFET  17  14  13      F1074JF                      ;D G S
DBODY 14  17          F1074DB                      ;P N
 
.MODEL F1074MOS NMOS (VTO=3 KP=1.7E-5 LAMBDA=0.1 RD=0.1 RS=0.09)
.MODEL F1074JF  NJF  (VTO=-6.8 BETA=0.2 LAMBDA=5)
.MODEL F1074DB  D    (CJO=192P RS=0.25 VJ=0.7 M=0.35 BV=65)
.ENDS
*$
*POLYFET RF DEVICES
*03/22/96
*PHONE:(805)484-4210; FAX:(805)3393  CONTACT: MR. S.K. LEONG 
*HIGH POWER, HIGH FREQUENCY, RF N-CHANNEL DMOS MOSFET
*NOTE:-HP/EESOF USES 'GATE DRAIN SOURCE' ORDER 
*                 D  G  S
.SUBCKT  F1120/PF 20 10 30
LGATE 10  11     0.10 N
RGATE 11  12     1.20
CG    10  30     0.01 P
CRSS  12  17    21.20 P
CISS  12  14   207.00 P
LS    14  30     0.17 N
CS    14  30     2.30 P
LD    17  20     0.26 N
CD    20  30     0.01 P
R_RC  16  17    10.30
C_RC  14  16    83.70 P
MOS   13  12  14  14     F1120MOS  L=1.1U W= 0.39  ;D G S B LEVEL1
JFET  17  14  13         F1120JF		   ;D G S
DBODY 14  17             F1120DB		   ;P N

.MODEL   F1120MOS NMOS(VTO=3.0  KP=1.70E-5 LAMBDA=0.1 RD= 0.06 RS= 0.04)
.MODEL   F1120JF  NJF (VTO=-6.8 BETA=0.2 LAMBDA=5)
.MODEL   F1120DB  D   (CJO=310.0P  RS=0.25 VJ=0.7 M=0.35 BV= 65.0)
.ENDS
*$
*POLYFET RF DEVICES
*03/22/96
*PHONE:(805)484-4210; FAX:(805)3393  CONTACT: MR. S.K. LEONG 
*HIGH POWER, HIGH FREQUENCY, RF N-CHANNEL DMOS MOSFET
*NOTE:-HP/EESOF USES 'GATE DRAIN SOURCE' ORDER 
*                  D  G  S
.SUBCKT  F1174/PF 20 10 30
LGATE 10  11     0.57 N
RGATE 11  12     0.49
CG    10  30     0.01 P
CRSS  12  17    16.40 P
CISS  12  14   173.00 P
LS    14  30     0.21 N
CS    14  30     2.06 P
LD    17  20     0.37 N
CD    20  30     0.01 P
R_RC  16  17    11.10
C_RC  14  16    75.00 P
MOS   13  12  14  14     F1174MOS  L=1.1U W= 0.33  ;D G S B LEVEL1
JFET  17  14  13         F1174JF		   ;D G S
DBODY 14  17             F1174DB		   ;P N

.MODEL   F1174MOS NMOS(VTO=3.0  KP=1.70E-5 LAMBDA=0.1 RD= 0.07 RS= 0.06)
.MODEL   F1174JF  NJF (VTO=-6.8 BETA=0.2 LAMBDA=5)
.MODEL   F1174DB  D   (CJO=248.0P  RS=0.25 VJ=0.7 M=0.35 BV= 65.0)
.ENDS
*$
*POLYFET RF DEVICES
*03/22/96
*PHONE:(805)484-4210; FAX:(805)3393  CONTACT: MR. S.K. LEONG 
*HIGH POWER, HIGH FREQUENCY, RF N-CHANNEL DMOS MOSFET
*NOTE:-HP/EESOF USES 'GATE DRAIN SOURCE' ORDER 
*                  D  G  S
.SUBCKT  F1240/PF 20 10 30
LGATE 10  11     1.30 N
RGATE 11  12     0.76
CG    10  30     0.01 P
CRSS  12  17    26.50 P
CISS  12  14   111.00 P
LS    14  30     0.28 N
CS    14  30     3.20 P
LD    17  20     1.79 N
CD    20  30     0.01 P
R_RC  16  17     2.35
C_RC  14  16     2.50 P
MOS   13  12  14  14     F1240MOS  L=1.1U W= 0.18  ;D G S B LEVEL1
JFET  17  14  13         F1240JF		   ;D G S
DBODY 14  17             F1240DB		   ;P N

.MODEL   F1240MOS NMOS(VTO=3.0  KP=1.70E-5 LAMBDA=0.1 RD= 0.05 RS= 0.07)
.MODEL   F1240JF  NJF (VTO=-6.8 BETA=0.2 LAMBDA=5)
.MODEL   F1240DB  D   (CJO=186.0P  RS=0.25 VJ=0.7 M=0.35 BV= 40.0)
.ENDS
*$
*POLYFET RF DEVICES
*03/22/96
*PHONE:(805)484-4210; FAX:(805)3393  CONTACT: MR. S.K. LEONG 
*HIGH POWER, HIGH FREQUENCY, RF N-CHANNEL DMOS MOSFET
*NOTE:-HP/EESOF USES 'GATE DRAIN SOURCE' ORDER 
*                  D  G  S
.SUBCKT  F1260/PF 20 10 30
LGATE 10  11     0.52 N
RGATE 11  12     0.77
CG    10  30     0.02 P
CRSS  12  17    34.40 P
CISS  12  14   185.00 P
LS    14  30     0.08 N
CS    14  30     5.90 P
LD    17  20     0.62 N
CD    20  30     2.70 P
R_RC  16  17     4.80
C_RC  14  16    53.40 P
MOS   13  12  14  14     F1260MOS  L=1.1U W= 0.24  ;D G S B LEVEL1
JFET  17  14  13         F1260JF		   ;D G S
DBODY 14  17             F1260DB		   ;P N

.MODEL   F1260MOS NMOS(VTO=3.0  KP=1.70E-5 LAMBDA=0.1 RD= 0.03 RS= 0.06)
.MODEL   F1260JF  NJF (VTO=-6.8 BETA=0.2 LAMBDA=5)
.MODEL   F1260DB  D   (CJO=248.0P  RS=0.25 VJ=0.7 M=0.35 BV= 40.0)
.ENDS
*$

*POLYFET RF DEVICES 
*FEB 15 1994
*PHONE:(805)484-4210; FAX:(805)484-3393  CONTACT:MR. S.K. LEONG
*HIGH POWER, HIGH FREQUENCY, RF N-CHANNEL VERTICAL DMOS MOSFET
*TO GENERATE S PARAMETER MATCHING DATA SHEET, SET VG=3.55V FOR IDQ=200MA
*MODEL APPLICABLE FOR ALL F2A 1 DIE IN AP, AK, AQ AND CC PACKAGE.
*  NOTE:- HP/EESOF USES 'GATE DRAIN SOURCE' ORDER
*			( ;D  G  S )
.SUBCKT F2001/PF  20  10  30
LG     10  11  1.49N
RGATE  11  12  2.17
CG     10  30  0.49P
CRSS   12  17  1.06P
CISS   12  14  9.04P
LS     14  30  0.30N
CS     14  30  0.24P
LD     17  20  1.27N
CD     20  30  1.27P
R_RC   16  17  1079
C_RC   14  16  51.26P
MOS    13  12  14  14 F2001MOS L=1.1U W=0.0125     ;D G S B LEVEL1
JFET   17  14  13     F2001JF                      ;D G S
DBODY  14  17         F2001DB                      ;P N
 
.MODEL F2001MOS NMOS (VTO=2 KP=1.5E-5 LAMBDA=0.1 RD=2.9 RS=1.7)
.MODEL F2001JF  NJF  (VTO=-6.8 BETA=0.1 LAMBDA=5)
.MODEL F2001DB  D    (CJO=12P RS=0.25 VJ=0.7 M=0.35 BV=65)
.ENDS
*$
*POLYFET RF DEVICES 
*FEB 15 1994
*PHONE:(805)484-4210; FAX:(805)484-3393  CONTACT:MR. S.K. LEONG
*HIGH POWER, HIGH FREQUENCY, RF N-CHANNEL VERTICAL DMOS MOSFET
*TO GENERATE S PARAMETER MATCHING DATA SHEET, SET VG=3.55V FOR IDQ=400MA
*MODEL APPLICABLE FOR ALL F2A 2 DIE IN AP, AK, AND CC PACKAGE.
*  NOTE:- HP/EESOF USES 'GATE DRAIN SOURCE' ORDER
*			( ;D  G  S )
.SUBCKT F2002/PF  20  10  30
LG    10  11  1.20N
RGATE 11  12  1.02
CG    10  30  0.18P
CRSS  12  17  2.80P
CISS  12  14  19.32P
LS    14  30  0.15N
CS    14  30  2.48P
LD    17  20  1.03N
CD    20  30  0.28P
R_RC  16  17  1073
C_RC  14  16  1.48P
MOS   13  12  14  14 F2002MOS L=1.1U W=0.025       ;D G S B LEVEL1
JFET  17  14  13     F2002JF                       ;D G S
DBODY 14  17         F2002DB                       ;P N
 
.MODEL F2002MOS NMOS (VTO=2 KP=1.5E-5 LAMBDA=0.1 RD=1.1 RS=1.0)
.MODEL F2002JF  NJF  (VTO=-6.8 BETA=0.1 LAMBDA=5)
.MODEL F2002DB  D    (CJO=24P RS=0.25 VJ=0.7 M=0.35 BV=65)
.ENDS
*$
*POLYFET RF DEVICES 
*FEB 15 1994
*PHONE:(805)484-4210; FAX:(805)484-3393  CONTACT:MR. S.K. LEONG
*HIGH POWER, HIGH FREQUENCY, RF N-CHANNEL VERTICAL DMOS MOSFET
*TO GENERATE S PARAMETER MATCHING DATA SHEET, SET VG=3.55V FOR IDQ=800MA
*MODEL APPLICABLE FOR ALL F2A 4 DIE IN AP AND AK PACKAGE.
*  NOTE:- HP/EESOF USES 'GATE DRAIN SOURCE' ORDER
*			( ;D  G  S )
.SUBCKT F2012/PF  20  10  30
LG     10  11  0.85N
RGATE  11  12  0.78
CG     10  30  0.10P
CRSS   12  17  3.75P
CISS   12  14  38.54P
LS     14  30  0.10N
CS     14  30  0.70P
LD     17  20  0.88N
CD     20  30  0.10P
R_RC   16  17  28.8   
C_RC   14  16  832.7P
MOS    13  12  14  14 F2012MOS L=1.1U W=0.05       ;D G S B LEVEL1
JFET   17  14  13     F2012JF                      ;D G S
DBODY  14  17         F2012DB                      ;P N
 
.MODEL F2012MOS NMOS (VTO=2 KP=1.5E-5 LAMBDA=0.1 RD=0.6 RS=0.4)
.MODEL F2012JF  NJF  (VTO=-6.8 BETA=0.1 LAMBDA=5)
.MODEL F2012DB  D    (CJO=48P RS=0.25 VJ=0.7 M=0.35 BV=65)
.ENDS
*$
*POLYFET RF DEVICES 
*FEB 15 1994
*PHONE:(805)484-4210; FAX:(805)484-3393  CONTACT:MR. S.K. LEONG
*HIGH POWER, HIGH FREQUENCY, RF N-CHANNEL VERTICAL DMOS MOSFET
*TO GENERATE S PARAMETER MATCHING DATA SHEET, SET VG=3.55V FOR IDQ=600MA
*MODEL APPLICABLE FOR ALL F2A 3 DIE IN AP AND AK PACKAGE.
*  NOTE:- HP/EESOF USES 'GATE DRAIN SOURCE' ORDER
*			( ;D  G  S )
.SUBCKT F2021/PF  20  10  30
LG     10  11  1.12N
RGATE  11  12  0.98
CG     10  30  0.01P
CRSS   12  17  2.88P
CISS   12  14  32.00P
LS     14  30  0.13N
CS     14  30  1.20P
LD     17  20  0.89N
CD     20  30  0.62P
R_RC   16  17  1382
C_RC   14  16  32.6P
MOS    13  12  14  14 F2021MOS L=1.1U W=0.0375         ;D G S B LEVEL1
JFET   17  14  13     F2021JF                          ;D G S
DBODY  14  17         F2021DB                          ;P N
 
.MODEL F2021MOS NMOS (VTO=2 KP=1.5E-5 LAMBDA=0.1 RD=0.7 RS=0.6)
.MODEL F2021JF  NJF  (VTO=-6.8 BETA=0.1 LAMBDA=5)
.MODEL F2021DB  D    (CJO=36P RS=0.25 VJ=0.7 M=0.35 BV=65)
.ENDS
*$
*POLYFET RF DEVICES
*03/22/96
*PHONE:(805)484-4210; FAX:(805)3393  CONTACT: MR. S.K. LEONG 
*HIGH POWER, HIGH FREQUENCY, RF N-CHANNEL DMOS MOSFET
*NOTE:-HP/EESOF USES 'GATE DRAIN SOURCE' ORDER 
*                   D  G  S
.SUBCKT  F2201S/PF 20 10 30
LGATE 10  11     1.90 N
RGATE 11  12     3.30
CG    10  30     0.88 P
CRSS  12  17     1.78 P
CISS  12  14     8.40 P
LS    14  30     0.05 N
CS    14  30     1.60 P
LD    17  20     1.50 N
CD    20  30     0.97 P
R_RC  16  17   680.00
C_RC  14  16     1.30 P
MOS   13  12  14  14    F2201SMOS  L=1.1U W= 0.01  ;D G S B LEVEL1
JFET  17  14  13        F2201SJF		   ;D G S
DBODY 14  17            F2201SDB		   ;P N

.MODEL  F2201SMOS NMOS(VTO=2.0  KP=1.50E-5 LAMBDA=0.1 RD= 1.10 RS= 1.05)
.MODEL  F2201SJF  NJF (VTO=-6.8 BETA=0.2 LAMBDA=5)
.MODEL  F2201SDB  D   (CJO= 14.0P  RS=0.25 VJ=0.7 M=0.35 BV= 40.0)
.ENDS
*$
*POLYFET RF DEVICES
*03/22/96
*PHONE:(805)484-4210; FAX:(805)3393  CONTACT: MR. S.K. LEONG 
*HIGH POWER, HIGH FREQUENCY, RF N-CHANNEL DMOS MOSFET
*NOTE:-HP/EESOF USES 'GATE DRAIN SOURCE' ORDER 
*                   D  G  S
.SUBCKT  F2202S/PF 20 10 30
LGATE 10  11     1.40 N
RGATE 11  12     0.80
CG    10  30     0.13 P
CRSS  12  17     3.45 P
CISS  12  14    14.78 P
LS    14  30     0.37 N
CS    14  30     4.01 P
LD    17  20     1.11 N
CD    20  30     0.74 P
R_RC  16  17   1123.0
C_RC  14  16     1.54 P
MOS   13  12  14  14    F2202SMOS  L=1.1U W= 0.02  ;D G S B LEVEL1
JFET  17  14  13        F2202SJF		   ;D G S
DBODY 14  17            F2202SDB		   ;P N

.MODEL  F2202SMOS NMOS(VTO=2.0  KP=1.30E-5 LAMBDA=0.1 RD= 0.40 RS= 0.65)
.MODEL  F2202SJF  NJF (VTO=-6.8 BETA=0.2 LAMBDA=5)
.MODEL  F2202SDB  D   (CJO= 28.0P  RS=0.25 VJ=0.7 M=0.35 BV= 40.0)
.ENDS
*$
*POLYFET RF DEVICES
*03/22/96
*PHONE:(805)484-4210; FAX:(805)3393  CONTACT: MR. S.K. LEONG 
*HIGH POWER, HIGH FREQUENCY, RF N-CHANNEL DMOS MOSFET
*NOTE:-HP/EESOF USES 'GATE DRAIN SOURCE' ORDER 
*                  D  G  S
.SUBCKT  L2081/PF 20 10 30
LGATE 10  11     0.01 N
RGATE 11  12     0.10
CG    10  30     0.50 P
CRSS  12  17     2.10 P
CISS  12  14    26.70 P
LS    14  30     0.11 N
CS    14  30     0.51 P
LD    17  20     0.36 N
CD    20  30     0.16 P
R_RC  16  17   532.00
C_RC  14  16     5.80 P
MOS   13  12  14  14     L2081MOS  L=1.1U W= 0.04  ;D G S B LEVEL1
JFET  17  14  13         L2081JF		   ;D G S
DBODY 14  17             L2081DB		   ;P N

.MODEL   L2081MOS NMOS(VTO=2.5  KP=1.25E-5 LAMBDA=0.1 RD= 0.20 RS= 0.60)
.MODEL   L2081JF  NJF (VTO=-6.8 BETA=0.2 LAMBDA=5)
.MODEL   L2081DB  D   (CJO= 95.0P  RS=0.25 VJ=0.7 M=0.35 BV= 65.0)
.ENDS
*$
*POLYFET RF DEVICES
*03/22/96
*PHONE:(805)484-4210; FAX:(805)3393  CONTACT: MR. S.K. LEONG 
*HIGH POWER, HIGH FREQUENCY, RF N-CHANNEL DMOS MOSFET
*NOTE:-HP/EESOF USES 'GATE DRAIN SOURCE' ORDER 
*                  D  G  S
.SUBCKT  L2082/PF 20 10 30
LGATE 10  11     0.10 N
RGATE 11  12     0.60
CG    10  30     0.24 P
CRSS  12  17     2.17 P
CISS  12  14    60.00 P
LS    14  30     0.05 N
CS    14  30     0.10 P
LD    17  20     0.10 N
CD    20  30     1.30 P
R_RC  16  17     7.54
C_RC  14  16    10.30 P
MOS   13  12  14  14     L2082MOS  L=1.1U W= 0.08  ;D G S B LEVEL1
JFET  17  14  13         L2082JF		   ;D G S
DBODY 14  17             L2082DB		   ;P N

.MODEL   L2082MOS NMOS(VTO=2.5  KP=1.25E-5 LAMBDA=0.1 RD= 0.17 RS= 0.30)
.MODEL   L2082JF  NJF (VTO=-6.8 BETA=0.2 LAMBDA=5)
.MODEL   L2082DB  D   (CJO=190.0P  RS=0.25 VJ=0.7 M=0.35 BV= 65.0)
.ENDS
*$
*POLYFET RF DEVICES
*03/22/96
*PHONE:(805)484-4210; FAX:(805)3393  CONTACT: MR. S.K. LEONG 
*HIGH POWER, HIGH FREQUENCY, RF N-CHANNEL DMOS MOSFET
*NOTE:-HP/EESOF USES 'GATE DRAIN SOURCE' ORDER 
*                  D  G  S
.SUBCKT  L2083/PF 20 10 30
LGATE 10  11     0.02 N
RGATE 11  12     0.14
CG    10  30     0.21 P
CRSS  12  17     4.14 P
CISS  12  14    82.20 P
LS    14  30     0.01 N
CS    14  30     0.32 P
LD    17  20     0.10 N
CD    20  30     2.97 P
R_RC  16  17    44.00
C_RC  14  16    10.30 P
MOS   13  12  14  14     L2083MOS  L=1.1U W= 0.12  ;D G S B LEVEL1
JFET  17  14  13         L2083JF		   ;D G S
DBODY 14  17             L2083DB		   ;P N

.MODEL   L2083MOS NMOS(VTO=2.5  KP=1.25E-5 LAMBDA=0.1 RD= 0.07 RS= 0.15)
.MODEL   L2083JF  NJF (VTO=-6.8 BETA=0.2 LAMBDA=5)
.MODEL   L2083DB  D   (CJO=285.0P  RS=0.25 VJ=0.7 M=0.35 BV= 65.0)
.ENDS
*$
*POLYFET RF DEVICES
*03/22/96
*PHONE:(805)484-4210; FAX:(805)3393  CONTACT: MR. S.K. LEONG 
*HIGH POWER, HIGH FREQUENCY, RF N-CHANNEL DMOS MOSFET
*NOTE:-HP/EESOF USES 'GATE DRAIN SOURCE' ORDER 
*                 D  G  S
.SUBCKT  P123/PF 20 10 30
LGATE 10  11     1.20 N
RGATE 11  12     0.56
CG    10  30     0.08 P
CRSS  12  17     1.90 P
CISS  12  14     8.50 P
LS    14  30     0.44 N
CS    14  30     6.60 P
LD    17  20     0.50 N
CD    20  30     3.00 P
R_RC  16  17   744.00
C_RC  14  16     2.20 P
MOS   13  12  14  14      P123MOS  L=1.1U W= 0.01  ;D G S B LEVEL1
JFET  17  14  13          P123JF		   ;D G S
DBODY 14  17              P123DB		   ;P N

.MODEL    P123MOS NMOS(VTO=2.0  KP=1.50E-5 LAMBDA=0.1 RD= 1.10 RS= 1.05)
.MODEL    P123JF  NJF (VTO=-6.8 BETA=0.2 LAMBDA=5)
.MODEL    P123DB  D   (CJO= 14.0P  RS=0.25 VJ=0.7 M=0.35 BV= 40.0)
.ENDS
*$

